Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal distention, dark stools 
 
Major Surgical or Invasive Procedure:
Upper Endoscopy (___)
Colonoscopy (___)
Colonoscopy (___)
Endoscopy with glue injection (___)

 
History of Present Illness:
___ year old with history of Hep C cirrhosis c/b 
esophageal/gastric varices, hepatic encephalopathy, MELD 10, 
Childs A jaundiced with scleral icterus, liver pain, abdominal 
distention, presenting with continued dark stools. Patient 
describes the stools as "oil slick." Denies hematemesis. Denies 
any chest pain, chest pressure, shortness of breath, nausea, 
vomiting, diarrhea (other than the bowel movements he has from 
lactulose). He did note feeling dizzy over the past several days 
primarily at night. Denies fevers, chills, night sweats. Has 
minimal right upper quadrant abdominal discomfort.  
Patient was admitted from ___ with melena. 
During admission, patient received one unit of PRBC, and 2L NS. 
Also underwent EGD which showed multiple linear erosions in the 
distal esophagus without bleeding, one cord of grade I 
non-bleeding esophageal varix, irregular Z line, GAVE, portal 
hypertensive gastropathy, and medium sized gastric varices 
without stigmata of bleeding. Subsequently discharged on 
omeprazole 40 mg PO BID for total course of 4 weeks. Also 
discharged on DS bactrim for SBP prophylaxis (not used Cipro 
given severe interaction with seroquel).  
In the ED, initial vitals were: 7 97.5 87 106/69 18 100% RA  
- Labs were significant for pancytopenia with WBC 3.3, H/H 
7.1/21.5 (discharge was ___ platelets 72. Chemistry panel 
was within normal limits. AST 105, ALT 75, Alk Phos 68, Total 
Bilirubin 0.7, Albumin 2.7.  

 
Past Medical History:
-bipolar disorder  
-attention deficit disorder  
-Insomnia  
-hepatitis C with cirrhosis  
-tobacco abuse  
-COPD  
-gastroesophageal reflux with ___ esophagus  

 
Social History:
___
Family History:
No known family history of liver disease
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
Vitals: 98.2, 145/88, 74, 20, 100% on RA.  
General: Alert and oriented x 3, in NAD, resting comfortably.  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: soft, non-tender, non-distended, no rebound or 
guarding, liver edge appreciated 3 cm below costal margin, 
minimal tenderness to palpation. Splenomegaly appreciated. 
Negative fluid wave.  
Ext: Warm, well perfused, 2+ pulses, trace pitting edema of the 
right and left lower extremiites.  
Neuro: CNII-XII intact, grossly normal motor exam, no asterixis. 
 

PHYSICAL EXAM ON DISCHARGE:
Vitals: 98.4 99 67 110/66 18 95RA
GENERAL: NAD, resting in bed; large abdomen and fairly skinny 
man  
HEENT: anicteric sclera, pink conjunctiva, MMM, no upper row of 
teeth  
NECK: no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, liver edge appreciated 3cm below intercostal 
margin; somewhat tender to deep palpation in RUQ, no 
splenomegaly appreciated. No caput medusae.  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Patient declined to remove socks for 
foot exam; bandage appreciated under R sock  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN nerve II-X intact. No focal deficits. No asterixis.  
 
Pertinent Results:
LABORATORY STUDIES ON ADMISSION:
================================
___ 11:34AM BLOOD WBC-3.3* RBC-2.25*# Hgb-7.1*# Hct-21.5*# 
MCV-96 MCH-31.6 MCHC-33.0 RDW-17.4* RDWSD-60.9* Plt Ct-72*
___ 11:34AM BLOOD Neuts-44.9 ___ Monos-11.1 Eos-1.8 
Baso-0.9 Im ___ AbsNeut-1.49* AbsLymp-1.35 AbsMono-0.37 
AbsEos-0.06 AbsBaso-0.03
___ 11:34AM BLOOD ___ PTT-32.5 ___
___ 11:34AM BLOOD Glucose-92 UreaN-26* Creat-0.8 Na-138 
K-4.5 Cl-108 HCO3-22 AnGap-13
___ 11:34AM BLOOD Lipase-47
___ 11:34AM BLOOD Albumin-2.7* Calcium-8.2* Phos-4.5 Mg-1.7
___ 07:13PM BLOOD Lactate-2.0

MICROBIOLOGY:
================
BLOOD CULTURES: negative

RADIOLOGY:
================
CT ABD & PELVIS W/ CONTRAST:  
1. Hepatic cirrhosis. While no focal hepatic lesion is 
suspicious for  hepatocellular carcinoma, a 1 cm vague area of 
nonspecific washout within segment III is noted without 
associated arterial hyperenhancement. Recommend attention on 
followup CT/MR imaging.  
2. Splenomegaly with extensive esophageal and gastric varices as 
well as massive splenorenal shunt, compatible with portal 
hypertension. No ascites or lower gastrointestinal varices.  
3. 1 cm left renal calculus resulting in mild left pelviectasis 
and  
hyperenhancement of the left renal pelvis and proximal left 
ureteral  urothelium which may be secondary to inflammatory 
versus infectious  etiologies. Correlation with urinalysis is 
recommended.  
4. Colonic diverticulosis without evidence of acute 
diverticulitis

CXR: No acute cardiopulmonary abnormality.

RUQ U/S:
1. Previously seen 1.7 cm nodule in the left lobe of the liver 
could be a 
regenerative nodule but remains incompletely characterized. 
2. Lesion in the region of segment 6 seen on ___ is 
not seen on the current exam. 
3. Cirrhotic liver and splenomegaly are similar to prior. 
4. Mild gallbladder wall thickening and edema, improved from the 
prior study, likely related to underlying liver disease. 

Endoscopy ___
Esophageal varices
Esophagitis
Mosaic appearance in the fundus and stomach body compatible with 
moderate portal hypertensive gastropathy
Varices at the fundus
Food in the stomach antrum partially obscuring the pylorus, so 
the procedure was stopped before the duodenum was examined.
Otherwise normal EGD to pylorus

Colonoscopy ___
Diverticulosis of the sigmoid colon and descending colon
A large stool was found in the proximal ascending colon, perhaps 
the cecum, almost blocking the lumen.
Polyp at 20cm in the sigmoid colon
Polyp at 40cm in the sigmoid colon
Otherwise normal colonoscopy to proximal ascending colon

Colonoscopy ___
Angioectasias in the colon
Polyps in the colon
Diverticulosis of the whole colon
Stool in the whole colon
Rectal varices with no stigmata of recent bleeding.
Otherwise normal colonoscopy to cecum

Endoscopy ___
Esophageal varices
Erythema and mosaic appearance in the whole stomach compatible 
with portal hypertensive gastropathy
Varices at the fundus (injection)
2 pills in the stomach
Otherwise normal EGD to third part of the duodenum

DISCHARGE LABORATORY STUDIES
=====================================
___ 05:29AM BLOOD WBC-3.4* RBC-2.78* Hgb-8.6* Hct-25.9* 
MCV-93 MCH-30.9 MCHC-33.2 RDW-17.1* RDWSD-57.8* Plt Ct-66*
___ 05:29AM BLOOD ___ PTT-32.4 ___
___ 05:29AM BLOOD Glucose-147* UreaN-13 Creat-0.7 Na-136 
K-3.8 Cl-105 HCO3-25 AnGap-10
___ 05:29AM BLOOD ALT-59* AST-72* LD(LDH)-200 AlkPhos-80 
TotBili-0.4
___ 05:29AM BLOOD Albumin-2.6* Calcium-8.1* Phos-4.4 Mg-1.___ year old man with history of Hep C cirrhosis c/b 
esophageal/gastric varices, hepatic encephalopathy w/ MELD 10, 
Childs A, admitted with melena. 

## GI Bleed:
Required 2 units PRBCs on arrival. He remained hemodynamically 
stable and hemoglobin stable without requiring any further 
transfusions. Underwent initial endoscopy, which showed 
esophageal varicies, esophagitis, portal hypertensive 
gastropathy, gastric fundus varices but no active bleeding. 
Initial colonoscopy was limited due to poor bowel prep. Repeat 
colonoscopy showed angioectasias in colon, polyps, 
diverticulosis, and rectal varices with no stigmata of recent 
bleeding. Since no evidence of bleeding on colonoscopy, and 
patient unwilling to undergo further evaluation with capsule, 
underwent repeat endoscopy with glue injection of gastric 
varices, which the patient tolerated well. The patient remained 
hemodynamically stable and was discharged with a stable 
hemoglobin.  

## HCV Cirrhosis: 
Patient has a history of HCV cirrhosis complicated by esophageal 
and gastric varices, and hepatic encephalopathy. HCV viral load 
___. There was no evidence of ascites on ultrasound.  
He also had no evidence of hepatic encephalopathy on physical 
exam. Per prior notes, responded to anti-TNF agents alpha agents 
in past, but insurance issues have made it difficult to obtain 
medications. His liver function tests remained stable during 
admission.  He was continued on lactulose, rifaximin and 
ursodiol.  He was also started on nadolol 20mg po daily prior to 
discharge.

## COPD:  
He was continued on his home albuterol inhaler and tiotropium 
bromide.

## Bipolar Disorder:  
He was continued on his home seroquel 800 mg QHS.  

TRANSITIONAL ISSUES
============================================================
[] will require non-urgent liver MRI to further assess left 
hepatic lobe nodule. 
[] Needs repeat upper endoscopy in 4 weeks with MAC anesthesia 
to reassess gastric varices s/p glue injection
[] Discontinued Cyclobenzaprine, and decreased Gabapentin 600mg 
PO TID to ___ PO TID because of high risk of hepatic 
encephalopathy
# CODE STATUS: Full Code (confirmed) 
# CONTACT: ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H-6H:PRN shortness of breath 
2. Gabapentin 600 mg PO TID 
3. Lactulose 30 mL PO TID 
4. QUEtiapine Fumarate 800 mg PO QHS 
5. Rifaximin 550 mg PO BID 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Ursodiol 600 mg PO BID 
8. Cyclobenzaprine ___ mg PO TID:PRN back pain 
9. Omeprazole 40 mg PO BID 

 
Discharge Medications:
1. Lactulose 30 mL PO TID 
RX *lactulose 20 gram/30 mL 30 ml by mouth three times a day 
Disp ___ Milliliter Milliliter Refills:*0
2. Gabapentin 300 mg PO TID 
3. Albuterol Inhaler ___ PUFF IH Q4H-6H:PRN shortness of breath 
RX *albuterol sulfate 90 mcg ___ puffs INH Q4H-Q6H:PRN Disp #*1 
Inhaler Refills:*0
4. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
5. QUEtiapine Fumarate 800 mg PO QHS 
6. Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
7. Tiotropium Bromide 1 CAP IH DAILY 
8. Ursodiol 600 mg PO BID 
RX *ursodiol 300 mg 2 capsule(s) by mouth twice a day Disp #*120 
Capsule Refills:*0
9. Nadolol 20 mg PO DAILY 
RX *nadolol 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Gastrointestinal bleed
HCV Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted because you had a bleed from 
somewhere in your GI tract, likely from your stomach.  You were 
given blood transfusions when you first arrived to the emergency 
room.  During the rest of your hospital stay, your blood counts 
were very stable and you did not need any more blood 
transfusions.  

You had several endoscopies and colonoscopies to look for the 
source of the bleed.  These scopes had to be repeated because of 
poor bowel prep (there was still some stool in your colon).  We 
found varicose veins in your stomach.  We injected glue into 
these varicose veins to reduce the risk of bleeding from your GI 
tract in the future.  It is very important that you have another 
endoscopy in one month to reassess these varicose veins.  

It is also very important that you take your medications as 
prescribed.  You were started on nadolol, which will reduce the 
risk of bleeding from your GI tract in the future. It is also 
very important for you to take your omeprazole to treat the 
inflammation in your food tube (esophagitis).   

Please see the below "recommended follow-up" section for your 
upcomming appointments.

Sincerely,

Your ___ liver team  
 
Followup Instructions:
___